US06670367B1
2-Hydroxy-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-diphenylpropionic Acid
12 g (27.5 mmol) of methyl 2-hydroxy-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-diphenylpropionate were dissolved in 110 ml of dioxane, and 55 ml of 1 N NaOH solution were added. The mixture was stirred at 80° C. for 2 hours. Water was added to the mixture, and the aqueous phase was extracted twice with ether. The aqueous phase was acidified with 1 N aqueous HCl and extracted with ether, the organic phase was dried over magnesium sulfate, and the solvent was distilled off. The residue was recrystallized from ether/n-hexane, and 10.2 g (87%) of colorless crystals were isolated.

reactant | methyl 2-hydroxy-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-diphenylpropionate | 27.5 mmol, 12 g | OC(C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)OCCC1=CC(=C(C=C1)OC)OC | C26H28O6
reactant | NaOH | 1 N, 55 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | dioxane | 110 ml | O1CCOCC1 | C4H8O2
product | 2-Hydroxy-3-(2-(3,4-dimethoxyphenyl)ethoxy)-3,3-diphenylpropionic Acid | 10.2 g, 87% | OC(C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)OCCC1=CC(=C(C=C1)OC)OC | C25H26O6
